US04383113
N[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-(n-butylthio)carbonylbenzenesulfonamide
Trimethylaluminum (1.5 ml) (2 M) was charged via syringe to 5.0 ml dry toluene under nitrogen atmosphere and 0.54 g (0.006 mole) N-butanethiol in 2.0 ml toluene was added dropwise. N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide (0.95 g) was added portionwise and the mixture warmed to 80° C. for 3 hr. After cooling to room temperature, the mixture was quenched with 25 ml of 10% HCl. Methylene chloride was added, separated, dried over magnesium sulfate, filtered and evaporated to give a crude oil. Trituration with hexanes gave 0.6 g white solid, m.p. 115°-120° C., showing infrared absorption peaks at 1725, 1680, 1600, 1560 cm-1 consistent for N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-(N-butylthio)carbonylbenzenesulfonamide.

reactant | Trimethylaluminum | 2 M, 1.5 ml | C[Al](C)C
reactant | N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | 0.95 g | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C15H16N4O6S
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | N[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-(n-butylthio)carbonylbenzenesulfonamide | 0.6 g | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)SCCCC | C18H22N4O5S2
